US04808605
5.0 g (19.9 mmol) of 4-[1-(benzyloxy)-N-methylformamido]butyric acid are dissolved in 175 ml of tetrahydrofuran. To the solution, cooled to -20°, are added 2.95 ml (2.1 g; 24 mmol) of triethylamine and 2.95 ml (22 mmol) of isobutyl chloroformate. The reaction mixture is thereafter stirred at this temperature for 1 hour. 2.45 g (19.6 mmol) of 2-aminothiophenol are then added and the reaction mixture is stirred at room temperature for 20 hours. Thereupon, 250 ml of water are added and the mixture is extracted with ethyl acetate. The organic phase is dried over magnesium sulphate and evaporated under reduced pressure. After chromatography on silica gel using a 1:1 mixture of ethyl acetate and hexane there are obtained 1.7 g (25.1%) of benzyl [3-(2-benzthiazolyl)propyl]methylcarbamate as an oil, MS: M+ 340.

reactant | 4-[1-(benzyloxy)-N-methylformamido]butyric acid | 19.9 mmol, 5.0 g | C(C1=CC=CC=C1)OC(=O)N(C)CCCC(=O)O | C13H17NO4
reactant | triethylamine | 24 mmol, 2.95 ml, 2.1 g | C(C)N(CC)CC | C6H15N
reactant | isobutyl chloroformate | 22 mmol, 2.95 ml | ClC(=O)OCC(C)C | C5H9ClO2
reactant | 2-aminothiophenol | 19.6 mmol, 2.45 g | NC1=C(C=CC=C1)S | C6H7NS
solvent | tetrahydrofuran | 175 ml | O1CCCC1 | C4H8O
solvent | water | 250 ml | O | H2O
product | benzyl [3-(2-benzthiazolyl)propyl]methylcarbamate | 1.7 g, 25.1% | S1C(=NC2=C1C=CC=C2)CCCN(C(OCC2=CC=CC=C2)=O)C | C19H20N2O2S
